US07851473B2
(1) 2,2,2-Trichloroethyl (6-methoxypyridin-3-yl)carbamate
To a solution of 5-amino-2-methoxypyridine (1.00 g, 8.06 mmol) and pyridine (1.96 ml, 24.2 mmol) in tetrahydrofuran (20 ml) was added 2,2,2-trichloroethyl chloroformate (1.67 ml, 12.1 mmol) with ice-cooling, the mixture was stirred for 30 minutes with ice-cooling, the reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product (2.30 g, 95.4%) as a solid.

reactant | 5-amino-2-methoxypyridine | 8.06 mmol, 1.00 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | pyridine | 24.2 mmol, 1.96 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 12.1 mmol, 1.67 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (6-methoxypyridin-3-yl)carbamate | 2.30 g, 95.4% | COC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C9H9Cl3N2O3
